US05750531
Step 2: 2-(1-Methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxy-5,6,7,8-tetrahydroquinazoline
In accordance with the same procedure as in Step 2 of Example 57, except that 2-chloro-4-hydroxy-5,6,7,8-tetrahydroquinazoline (2.0 g, 10.8 mmol) prepared in the above Step 1 and 1-methyl-1,2,3,4-tetrahydroisoquinoline(3.3 g, 22.4 mmol) were used as starting materials, 1.1 g of the titled compound was prepared. (Yield: 34.5%)

reactant | 2-chloro-4-hydroxy-5,6,7,8-tetrahydroquinazoline | 10.8 mmol, 2.0 g | ClC1=NC=2CCCCC2C(=N1)O | C8H9ClN2O
reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 22.4 mmol, 3.3 g | CC1NCCC2=CC=CC=C12 | C10H13N
product | 2-(1-Methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxy-5,6,7,8-tetrahydroquinazoline | 1.1 g, Yield: 34.5% | CC1N(CCC2=CC=CC=C12)C1=NC=2CCCCC2C(=N1)O | C18H21N3O
